US05109014
1-oxo-2-(4-trifluoromethylphenyl)-5-(4-chlorophenyl)-6-phenyl-1,2,3,4,6,7-hexahydro-5H-pyrazolo[1,2-a][1,2,4]triazole
To 1.0 g (2.2 mmole) of N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-2,3,4,5-tetrahydro-1H-pyrazole-1-carboxamide in 5 ml of formic acid was added 0.57 g of formalin. The mixture was heated at reflux for 30 minutes and then partitioned between dichloromethane and water. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate. Filtration, concentration in vacuo, and chromatography on silica gel using diethyl ether and hexanes gave the expected compound, mp 184°-187° C.

reactant | N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-phenyl-2,3,4,5-tetrahydro-1H-pyrazole-1-carboxamide | 2.2 mmole, 1.0 g | FC(C1=CC=C(C=C1)NC(=O)N1NC(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)(F)F | C23H19ClF3N3O
reactant | formalin | 0.57 g | C=O | CH2O
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 1-oxo-2-(4-trifluoromethylphenyl)-5-(4-chlorophenyl)-6-phenyl-1,2,3,4,6,7-hexahydro-5H-pyrazolo[1,2-a][1,2,4]triazole | O=C1N(CN2N1CC(C2C2=CC=C(C=C2)Cl)C2=CC=CC=C2)C2=CC=C(C=C2)C(F)(F)F | C24H19ClF3N3O
